US05688803
5-Hydroxy-3,4-dihydro-pyridazino[4,5-c]quinolin-4-one
0.54 g (0.0025 mol) of (RS)-1,4-dihydroxy-1,3-dihydrofuro[3,4-c]quinolin-3-one was dissolved in 5 ml of dimethyl sulphoxide while gassing with argon. 0.125 g (0.0025 mol) of hydrazine hydrate was added thereto and the mixture was stirred at room temperature for 4 days. The suspension obtained was suction filtered and rinsed with ethyl acetate. Yield: 0.28 g (53%) of 5-hydroxy-3,4-dihydro-pyridazino[4,5-c]quinolin-4-one as yellow crystals; m.p. >350° C.

reactant | (RS)-1,4-dihydroxy-1,3-dihydrofuro[3,4-c]quinolin-3-one | 0.0025 mol, 0.54 g | OC1OC(C=2C(=NC=3C=CC=CC3C21)O)=O | C11H7NO4
reactant | hydrazine hydrate | 0.0025 mol, 0.125 g | O.NN
solvent | dimethyl sulphoxide | 5 ml | CS(=O)C | C2H6OS
product | 5-Hydroxy-3,4-dihydro-pyridazino[4,5-c]quinolin-4-one | OC1=NC=2C=CC=CC2C2=C1C(NN=C2)=O | C11H7N3O2
